US04692460
A 14.25 g (0.068 moles) sample of ethyl 4H-cyclopenta[b]thiophene-6-carboxylate, the product of Example 1g., and 13.92 g p-(methylthio)benzoyl chloride were dissolved in 410 ml of dry nitromethane and placed under argon and cooled to -20° C. An 8 ml sample of SnCl4 was added dropwise controlling the temperature at -20° C. After the addition was complete the reaction mixture was stirred at -20° C. for 15 min. after which it was allowed to warm slowly to room temperature and stirred for 30 min. The reaction was poured into ice water and extracted three times with Et2O. The organics were combined, washed with 3-dimethylaminopropylamine solution, 3N hydrochloric acid, water, brine, and dried (MgSO4). Evaporation of the solvent gave a dark green oil which was flash chromatographed on silica gel using 1:20 EtOAc:hexane as the eluant. The resulting solid was recrystallized from methylcyclohexane/EtOAC to give 15.32 g of ethyl 5,6-dihydro-2-methyl-3-[4-(methylthio)benzoyl]-4H-cyclopenta[b]thiophene-6-carboxylate, mp 62-64° C.

reactant | ethyl 4H-cyclopenta[b]thiophene-6-carboxylate | S1C2=C(C=C1)CC=C2C(=O)OCC | C10H10O2S
reactant | p-(methylthio)benzoyl chloride | 13.92 g | CSC1=CC=C(C(=O)Cl)C=C1 | C8H7ClOS
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
reactant | nitromethane | 410 ml | [N+](=O)([O-])C | CH3NO2
product | ethyl 5,6-dihydro-2-methyl-3-[4-(methylthio)benzoyl]-4H-cyclopenta[b]thiophene-6-carboxylate | 15.32 g | CC1=C(C2=C(S1)C(CC2)C(=O)OCC)C(C2=CC=C(C=C2)SC)=O | C19H20O3S2
